US07153878B2
[4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol
To a solution of 4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid methyl ester (4.63 g, 15.47 mmole) in THF (100 mL), is added LiBH4 in one portion at 0° C. The reaction is warmed up to room temperature and stirred for an hour. Additional LiBH4 is added and the reaction is heated at 60° C. for 30 minutes. The excess amount of LiBH4 is destroyed using 6N HCl (50 mL) dropwise at 0° C. The mixture is partitioned between ethyl acetate (300 mL) and brine (300 mL). The organic layer is washed with brine (3×300 mL), dried over Na2SO4, filtered and concentrated. The crude product is purified by flash chromatography, eluting with 60% ethyl acetate in hexane and concentrated to provide the titled compound as a white solid. Mass [EI+] 272 (M+H)+.

reactant | 4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid methyl ester | 15.47 mmole, 4.63 g | COC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CC | C14H12F3NO3
reactant | LiBH4 | [Li+].[BH4-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | [4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol | C(C)C=1N=C(OC1CO)C1=CC=C(C=C1)C(F)(F)F | C13H12F3NO2
